US06159974
Preparation of 5-ethoxy-3-(2-pyridyl)-6-(4-trifluoromethylphenyl)-1,2,4-triazine
A mixture of 3-(2-pyridyl)-6-(4-trifluoromethylphenyl)-1,2,4-triazin-5-one (10.00 g, 31.4 mmol) and thionyl chloride (100 ml) was heated under reflux for two hours. The mixture was allowed to cool to room temperature, and the solvent was distilled off. To the residue were added tetrahydrofuran (100 ml) and sodium ethoxide (10.69 g, 157 mmol, 15.0 eq.), and the mixture was heated under reflux for two hours. The mixture was allowed to cool to room temperature, and water (300 ml) was added to the reaction mixture. The mixture was extracted with methylene chloride (300 ml), and washed with water (200 ml), and then washed with 5% brine (200 ml). The organic layer was dried over magnesium sulfate, filtered, and concentrated under reduced pressure to remove the solvent. The resulting solid was purified by flash silica gel column chromatography (ethyl acetate-hexane) to give the title compound (7.57 g, 70%) as pale yellow prisms.

reactant | 3-(2-pyridyl)-6-(4-trifluoromethylphenyl)-1,2,4-triazin-5-one | 31.4 mmol, 10.00 g | N1=C(C=CC=C1)C1=NN=C(C(N1)=O)C1=CC=C(C=C1)C(F)(F)F | C15H9F3N4O
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | sodium ethoxide | 157 mmol, 10.69 g, 15.0 eq. | [O-]CC.[Na+]
solvent | water | 300 ml | O | H2O
product | 5-ethoxy-3-(2-pyridyl)-6-(4-trifluoromethylphenyl)-1,2,4-triazine | 7.57 g, 70% | C(C)OC=1N=C(N=NC1C1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1 | C17H13F3N4O
